US07365066B2
3-(4-Fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine-6-carboxylic acid (2-dimethylamino-ethyl)-amide
Heat 3-(4-fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine-6-carboxylic acid ethyl ester (75 mg, 0.2 mmol) in 2 ml of N,N-dimethylethylenediamine at 90° C. for 6 hr in a sealed glass tube with stirring. Extract reaction solution once with water/methylene chloride and concentrate the organic layer in vacuo. Purify using preparative TLC (Silica Gel, 90:10 methylene chloride/methanol) to give 12 mg (10%) of the title compound MS ES+ m/e 418.2 (M+1).

reactant | 3-(4-fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine-6-carboxylic acid ethyl ester | 0.2 mmol, 75 mg | C(C)OC(=O)C=1C=CC=2N(C1)N=C(C2C2=CC=C(C=C2)F)C2=NC(=CC=C2)C | C22H18FN3O2
reactant | N,N-dimethylethylenediamine | 2 ml | CN(CCN)C | C4H12N2
product | 3-(4-Fluoro-phenyl)-2-(6-methyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridine-6-carboxylic acid (2-dimethylamino-ethyl)-amide | 12 mg, 10% | CN(CCNC(=O)C=1C=CC=2N(C1)N=C(C2C2=CC=C(C=C2)F)C2=NC(=CC=C2)C)C | C24H24FN5O
